US06166028
(4-Amino-2,6-dichloro-phenoxy)-acetic acid tert-butyl ester
A solution of (4-nitro-2,6-dichloro-phenoxy)-acetic acid tert-butyl ester (1 g) in ethanol (17 mL) and water (8.6 mL) is treated with iron powder (0.861 g) and ammonium chloride (86 mg) and the mixture is heated to reflux for approximately 1 hour. The mixture is then filtered and concentrated under reduced pressure. The resulting oil is partitioned between water and ethyl acetate, and the organic phase is then washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to provide the desired compound as a pale yellow solid.

reactant | (4-nitro-2,6-dichloro-phenoxy)-acetic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)=O | C12H13Cl2NO5
reactant | ammonium chloride | 86 mg | [Cl-].[NH4+]
solvent | ethanol | 17 mL | C(C)O | C2H6O
solvent | water | 8.6 mL | O | H2O
catalyst | iron | 0.861 g | [Fe] | Fe
product | (4-Amino-2,6-dichloro-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1Cl)N)Cl)=O | C12H15Cl2NO3
